US05780437
Ethyl 2-(4-hydrazinophenyl)-2-methylpropionate
A solution of 3.725 g (18 mmol) of ethyl 2-(4-aminophenyl)-2-methylpropionate in 18 n-tL of concentrated hydrochloric acid was stirred at -10° to -5° C. in an ice-acetone bath as a solution of 1.29 g (18.7 mmol) of sodium nitrite in 7.5 mL of water was added dropwise over about 15 minutes. Stirring was continued at this temperature for an additional 30 minutes. Next, a small amount of insoluble solid was removed by filtration into a cold receiving flask. The filtrate was then added dropwise over 10-15 minutes to a solution of 20.3 g (90 mmol) of stannous chloride dihydrate in 14.5 mL of concentrated hydrochloric acid stirred under nitrogen in an ice-acetone bath. The addition was carried out at such a rate that the internal temperature remained at about -5 ° C. A gummy material separated during the addition. After completion of the addition, stirring was continued at -10° to -5° C. for 1 hour. The aqueous phase was decanted, and the residual gum was dissolved in 250 mL of ethyl acetate. The ethyl acetate solution was treated cautiously with 250 mL of saturated aqueous sodium bicarbonate solution and shaken in a separatory funnel. The ethyl acetate layer was washed with 50 mL of saturated aqueous sodium chloride solution. The entire mixture was filtered before separation of the phases. The ethyl acetate phase was dried over magnesium sulfate, filtered, and concentrated in vacuo at room temperature to yield 2.59 g (65%) of an oil. 500 MHz 1H NMR (CDCl3) was consistent with the assigned structure and indicated that only minor impurities were present.

reactant | ethyl 2-(4-aminophenyl)-2-methylpropionate | 18 mmol, 3.725 g | NC1=CC=C(C=C1)C(C(=O)OCC)(C)C | C12H17NO2
reactant | sodium nitrite | 18.7 mmol, 1.29 g | N(=O)[O-].[Na+]
solvent | water | 7.5 mL | O | H2O
solvent | hydrochloric acid | 14.5 mL | Cl | ClH
product | Ethyl 2-(4-hydrazinophenyl)-2-methylpropionate | 2.59 g, 65% | N(N)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C12H18N2O2
